US07683176B2
A 25 mL scintillation vial was charged with 4-methylcarbamoyl-piperidine-1-carboxylic acid benzyl ester (138 mg, 0.5 mmol), POCl3 (0.095 mL, 1.0 mmol), 2,6-lutidine (130 mg, 1.25 mmol), and CH3CN (1.5 mL). The vial was sealed, heated to 40° C., and stirred for four hours. The volatiles were then evacuated in vacuo and to the resultant residue was added 4-tert-butyl-N-(6-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-benzenesulfonamide (193 mg, 0.5 mmol), DIPEA (0.5 mL), and dioxane (1.0 mL). The vial was sealed, heated to 130° C., and stirred for two hours. The volatiles were then removed in vacuo and to the residue was added 3 mL of 33% hydrobromic acid in acetic acid. The vial was sealed and stirred for 3 h. The volatiles were then evacuated in vacuo and the residue was purified via preparatory HPLC to afford 4-tert-butyl-N-[5-chloro-2-(4-methyl-5-piperidin-4-yl-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-benzenesulfonamide as a white powder: MS (ES) M+H expected 489.2, found 488.5.

reactant | 4-methylcarbamoyl-piperidine-1-carboxylic acid benzyl ester | 0.5 mmol, 138 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(NC)=O | C15H20N2O3
reactant | POCl3 | 1.0 mmol, 0.095 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 1.25 mmol, 130 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | 4-tert-butyl-N-(6-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-benzenesulfonamide | 0.5 mmol, 193 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC(=CC1)Cl)C(=O)NN | C16H19ClN4O3S
reactant | DIPEA | 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | CH3CN | 1.5 mL | CC#N | C2H3N
product | 4-tert-butyl-N-[5-chloro-2-(4-methyl-5-piperidin-4-yl-4H-[1,2,4]triazol-3-yl)-pyridin-3-yl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1=NN=C(N1C)C1CCNCC1 | C23H29ClN6O2S
